US06713474B2
Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (30 mg, 0.065 mmol) was mixed with tetrahydro-3-furanol (0.05 mL) in pyridine (0.5 mL). The reaction mixture was heated at 100° C. overnight. The solvent was removed and the residue was purified by preparative reverse phase PHLC to give tetrahydro-3-furanyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (14 mg, 0.031 mmol). 1H NMR (CDCl-d) δ 2.07(m, 6H), 3.66(m, 2H), 3.96(m, 7H), 4.13(m, 2H), 4.98(m, 1H), 5.26(s, 2H), 5.40(m, 1H), 6.97(s, 1H), 7.04(s, 1H), 7.08(d, J=8.2 Hz, 1H), 7.26(s, 1H), 8.30(s, 1H), 8.32(s, 1H). LC/MS MH30 =455.

reactant | Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.065 mmol, 30 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC2=CC=CC=C2)=O)OC)C2CCOCC2 | C25H25N5O4
reactant | tetrahydro-3-furanol | 0.05 mL | O1CC(CC1)O | C4H8O2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | tetrahydro-3-furanyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.031 mmol, 14 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC2COCC2)=O)OC)C2CCOCC2 | C23H27N5O5
